US04678802
1-(N-Benzoylcarbamoyl)-5-chlorooxindole
Using a similar procedure, 1-(N-propionylcarbamoyl)-5-chlorooxindole, 1-(N-pivaloylcarbamoyl)-5-chlorooxindole, 1-(N-butyrylcarbamoyl)-5-fluorooxindole, 1-(N-benzoyl-carbamoyl)-5-fluorooxindole, 1-(N-acetylcarbamoyl)-5-fluorooxindole, 1-(N-benzoylcarbamoyl)-5-bromooxindole, 1-(N-i-butyrylcarbamoyl)-5-bromooxindole and 1-(N-propionylcarbamoyl)-5-bromooxindole are prepared.

reactant | 1-(N-propionylcarbamoyl)-5-chlorooxindole | C(CC)(=O)NC(=O)N1C(CC2=CC(=CC=C12)Cl)=O | C12H11ClN2O3
reactant | 1-(N-pivaloylcarbamoyl)-5-chlorooxindole | C(C(C)(C)C)(=O)NC(=O)N1C(CC2=CC(=CC=C12)Cl)=O | C14H15ClN2O3
reactant | 1-(N-butyrylcarbamoyl)-5-fluorooxindole | C(CCC)(=O)NC(=O)N1C(CC2=CC(=CC=C12)F)=O | C13H13FN2O3
reactant | 1-(N-benzoyl-carbamoyl)-5-fluorooxindole | C(C1=CC=CC=C1)(=O)NC(=O)N1C(CC2=CC(=CC=C12)F)=O | C16H11FN2O3
reactant | 1-(N-acetylcarbamoyl)-5-fluorooxindole | C(C)(=O)NC(=O)N1C(CC2=CC(=CC=C12)F)=O | C11H9FN2O3
reactant | 1-(N-benzoylcarbamoyl)-5-bromooxindole | C(C1=CC=CC=C1)(=O)NC(=O)N1C(CC2=CC(=CC=C12)Br)=O | C16H11BrN2O3
reactant | 1-(N-propionylcarbamoyl)-5-bromooxindole | C(CC)(=O)NC(=O)N1C(CC2=CC(=CC=C12)Br)=O | C12H11BrN2O3
product | 1-(N-Benzoylcarbamoyl)-5-chlorooxindole | C(C1=CC=CC=C1)(=O)NC(=O)N1C(CC2=CC(=CC=C12)Cl)=O | C16H11ClN2O3
